US04574126
Methyl-3-(4-dimethylaminomethyl-2-pyridylmethylthio)propionimidate is added to a methanol solution of cyanamide. After standing overnight N-cyano-3-(4-dimethylaminomethyl-2-pyridylmethylthio)propionamidine is obtained.

reactant | Methyl-3-(4-dimethylaminomethyl-2-pyridylmethylthio)propionimidate | COC(CCSCC1=NC=CC(=C1)CN(C)C)=N | C13H21N3OS
reactant | cyanamide | N#CN | CH2N2
solvent | methanol | CO | CH4O
product | N-cyano-3-(4-dimethylaminomethyl-2-pyridylmethylthio)propionamidine | C(#N)NC(CCSCC1=NC=CC(=C1)CN(C)C)=N | C13H19N5S
